US07834000B2
2-(2-Nitrophenyl)ethanamine
To a solution of 1-(2-Bromoethyl)-2-nitrobenzene (6.96 g, 30.5 mmol) in CH3CN was added a solution of NaN3 (6 g, 91.6 mmol) in water (20 ml) and the reaction mixture was refluxed for 20 hours. The solution was cooled and extracted with DCM (3×). The organics were combined, washed with brine, dried (MgSO4) and evaporated to dryness. The residue was taken up in toluene (160 ml) and to this was added PPh3 (8 g, 30.5 mmol) and the reaction mixture was stirred at RT for 16 hours. The solvent was evaporated to dryness and the residue was treated with acetic acid (30 ml) and 48% HBr in acetic acid (30 ml) at 100° C. for 1 h. The reaction mixture was cooled, concentrated and extracted with DCM. The aqueous was brought to pH ˜10 with NaOH (aq.) and extracted with EtOAc (3×). The organics were combined, washed with brine, dried (MgSO4) and evaporated to dryness (4.2 g).

reactant | 1-(2-Bromoethyl)-2-nitrobenzene | 30.5 mmol, 6.96 g | BrCCC1=C(C=CC=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | NaN3 | 91.6 mmol, 6 g | [N-]=[N+]=[N-].[Na+]
reactant | PPh3 | 30.5 mmol, 8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | CH3CN | CC#N | C2H3N
solvent | water | 20 ml | O | H2O
product | 2-(2-Nitrophenyl)ethanamine | [N+](=O)([O-])C1=C(C=CC=C1)CCN | C8H10N2O2
